US07977358B2
C][[1-(3-Chloro-phenyl)-3,5-dimethyl-1H-pyrazol-4-yl]]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone
In analogy to the procedure described in Example 18], 1-(3-chloro-phenyl)-3,5-dimethyl-1H-pyrazole-4-carboxylic acid and 4-pyrrolidine-1-yl-piperidine gave the title compound in 98% yield as light brown solid. MS: 387.3 (MH+, Cl).

reactant | 1-(3-chloro-phenyl)-3,5-dimethyl-1H-pyrazole-4-carboxylic acid | ClC=1C=C(C=CC1)N1N=C(C(=C1C)C(=O)O)C | C12H11ClN2O2
reactant | 4-pyrrolidine-1-yl-piperidine | N1(CCCC1)C1CCNCC1 | C9H18N2
product | [[1-(3-Chloro-phenyl)-3,5-dimethyl-1H-pyrazol-4-yl]]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone | 98% yield | ClC=1C=C(C=CC1)N1N=C(C(=C1C)C(=O)N1CCC(CC1)N1CCCC1)C | C21H27ClN4O
